US04293552
1-(2-Chlorobenzoyl)-3-[5-(4-chlorophenyl)-2-pyrazinyl]urea
2M. 1-(2-Chlorobenzoyl)-3-[5-(α,α,α-trifluoro-p-tolyl)-2-pyrazinyl]urea, having a melting point of about 213°-215° C., and weighing 0.6 g., from 0.6 g. of 2-amino-5-(α,α,α-trifluoro-p-tolyl)pyrazine and 0.55 g. of 2-chlorobenzoyl isocyanate.

reactant | 1-(2-Chlorobenzoyl)-3-[5-(α,α,α-trifluoro-p-tolyl)-2-pyrazinyl]urea | ClC1=C(C(=O)NC(=O)NC2=NC=C(N=C2)C2=CC=C(C=C2)C(F)(F)F)C=CC=C1 | C19H12ClF3N4O2
reactant | 2-amino-5-(α,α,α-trifluoro-p-tolyl)pyrazine | NC1=NC=C(N=C1)C1=CC=C(C=C1)C(F)(F)F | C11H8F3N3
reactant | 2-chlorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=CC=C1 | C8H4ClNO2
product | 1-(2-Chlorobenzoyl)-3-[5-(4-chlorophenyl)-2-pyrazinyl]urea | ClC1=C(C(=O)NC(=O)NC2=NC=C(N=C2)C2=CC=C(C=C2)Cl)C=CC=C1 | C18H12Cl2N4O2
